US07910776B2
Alkoxylating the nitrated alkoxy derivatives forms 1,3,5-trialkoxy-2,4,6-trinitrobenzene, which remains dissolved in the organic solvent to form a 1,3,5-trialkoxy-2,4,6-trinitrobenzene/organic solvent solution. Additional organic solvent may, optionally, be added to maintain an initial volume of the organic solvent in the reaction vessel such that the 1,3,5-trialkoxy-2,4,6-trinitrobenzene remains in solution. For example, the additional organic solvent may be added to the reaction vessel to maintain a volume of from about 10 mL to about 50 mL. In one embodiment, TMOF is used as the alkoxylating agent and is reacted with the 5-methoxystyphnic acid or 3,5-dimethoxypicric acid, producing 1,3,5-trimethoxy-2,4,6-trinitrobenzene. While the example described herein utilizes TMOF as the alkoxylating agent, triethyl orthoformate or tripropyl orthoformate may be used to form 1,3,5-triethoxy-2,4,6-trinitrobenzene or 1,3,5-tripropoxy-2,4,6-trinitrobenzene, respectively.

reactant | TMOF | C[C@@H](C(=O)N1CCC[C@H]1C(=O)N2CCC[C@H]2C(=O)N3CCC[C@H]3C(=O)N4CCC[C@H]4C(=O)N5CCC[C@H]5C(=O)N6CCC[C@H]6C(=O)O)NC(=O)[C@@H]7CCCN7C(=O)[C@H](CC(=O)O)NC(=O)[C@H](CC8=CC=C(C=C8)O)N | C51H70N10O14
reactant | 5-methoxystyphnic acid | COC1=C(C(=C([N+](=O)[O-])C(=C1[N+](=O)[O-])O)O)[N+](=O)[O-] | C7H5N3O9
reactant | 3,5-dimethoxypicric acid | COC1=C([N+](=O)[O-])C(=C(C(=C1[N+](=O)[O-])OC)[N+](=O)[O-])O | C8H7N3O9
product | 1,3,5-trimethoxy-2,4,6-trinitrobenzene | COC1=C(C(=C(C(=C1[N+](=O)[O-])OC)[N+](=O)[O-])OC)[N+](=O)[O-] | C9H9N3O9
